************************************************************************
* auCdl Netlist:
* 
* Library Name:  MULTIPLIER
* Top Cell Name: and2
* View Name:     schematic
* Netlisted on:  Jun 27 00:02:46 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter A B GND VDD
*.PININFO A:I GND:I VDD:I B:O
MM0 B A GND GND NMOS_VTL W=90n L=50n m=1
MM1 B A VDD VDD PMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    nand2
* View Name:    schematic
************************************************************************

.SUBCKT nand2 A B GND VDD Y
*.PININFO A:I B:I GND:I VDD:I Y:O
MM1 Y B VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM0 Y A VDD VDD PMOS_VTL W=180.0n L=50n m=1
MM2 Y A n1 GND NMOS_VTL W=180.0n L=50n m=1
MM3 n1 B GND GND NMOS_VTL W=180.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: MULTIPLIER
* Cell Name:    and2
* View Name:    schematic
************************************************************************

.SUBCKT and2 A B GND VDD Y
*.PININFO A:I B:I GND:I VDD:I Y:O
XI4 net8 Y GND VDD / inverter
XI2 A B GND VDD net8 / nand2
.ENDS

